datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([H:11])[H:12])[H:10])([H:8])[H:9].[C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14],313.624272
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21])[H:5],7.1128
[C:0]([C:1]([O:2][O:3][H:8])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([O:2])([H:6])[H:7])([O:3][H:8])([H:4])[H:5],112.55
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[C:20]([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[H:6][C:20]([H:21])([H:22])[H:23],29.928152
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][O:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:11][O:12],201.711
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17],20.92
[C:0]([C:1]([C:2]1[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]1([H:8])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])[H:9])([H:5])([H:6])[H:7],161.921
[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]2[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]12)[H:12].[O:20][H:21]>>[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]2[c:7]([H:16])[c:8]([H:17])[c:9][c:10]([H:19])[c:11]12)[H:12].[H:18][O:20][H:21],6.091904
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][O:13],7.815712
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([S:11][H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:12])([H:13])[H:14])([S:11][H:16])[H:15],82.9269
[H:0][H:1].[O:2]>>[H:0].[H:1][O:2],96.0228
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:9])([H:10])[H:11],37.7397
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:11])([H:12])[H:13]>>[C:0]([H:11])([H:12])[H:13].[c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12,478.030368
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4]>>[C:0](=[C:1]([C:2]([H:6])[H:7])[H:5])([H:3])[H:4],172.799
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[C:29]([H:30])([H:31])[H:32])([H:15])([H:16])[H:17],35.0619
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([C:1](=[O:2])[H:6])([H:4])[H:5].[H:3][H:7],21.769352
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:5])[H:4],-3.38904
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11]([H:20])([H:21])[H:22])[O:12][O:13])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:13][O:12][C:9]([C:8]([H:14])([H:15])[H:16])([C:10]([H:17])([H:18])[H:19])[C:11]([H:20])([H:21])[H:22],56.9024
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])[H:6].[H:7][C:16]([H:17])([H:18])[H:19],0.0
